US04547501
4-Diacetylamino-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline
A mixture consisting of 5.5 g. (0.0258 mole) of 4-amino-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline (the product of Example 14) and 25 g. (0.25 mole) of acetic anhydride (25 ml.) in 60 ml. of pyridine containing 100 mg. of p-dimethylaminopyridine was stirred at room temperature overnight (~18 hours). The resulting slurry was then filtered to remove the insolubles and the orange-red filtrate was thereafter evaporated under a high vacuum to give a dark gummy residue. Upon the addition of water, pinkish-white crystals were obtained and these were subsequently collected by means of suction filtration, washed with a copious amount of water and dried in vacuo at 50° C. to ultimately afford 2.9 g. (38%) of 4-diacetylamino-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 157°-159° C. Recrystallization of the latter material from ethyl acetate/diethyl ether then gave an analytically pure sample (m.p. 158°-160° C). The pure product was further characterized by means of mass spectroscopy and nuclear magnetic resonance data, in addition to elemental analysis. Mass spectrum: m/e, 297(P).

reactant | 4-amino-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline | 0.0258 mole | NC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CC | C11H11N5
reactant | acetic anhydride | 0.25 mole, 25 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 100 mg | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
catalyst | p-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-Diacetylamino-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline | C(C)(=O)N(C=1C=2N(C3=CC=CC=C3N1)C(=NN2)CC)C(C)=O | C15H15N5O2
